US05334576
Preparation of methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6 -methylnicotinate-1-oxide
A solution of 29 g of methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate and 28.7 g of 80% M-chloroperbenzoic acid in 250 mL of methylene chloride is stirred and heated at reflux for 31/2 hours. The reaction mixture is filtered, and the solid is thoroughly washed with methylene chloride. The combined filtrates are cooled and treated cautiously with saturated aqueous sodium bisulfite until a negative starch-iodide test is obtained. The mixture is again filtered, and the organic layer is washed with saturated sodium bicarbonate solution, dried, and concentrated in vacuo to give an oil. Trituration of this oil with ether affords the desired product as a pale yellow solid, mp 135°-138.5° C.

reactant | methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate | 29 g | C(C)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=CC(=N1)C | C17H21N3O4
reactant | M-chloroperbenzoic acid | 28.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6 -methylnicotinate-1-oxide | C(C)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=CC(=[N+]1[O-])C | C17H21N3O5
